US04160077
A solution of 7.5 parts of triethylamine in 25 parts of dioxan is added over 2 hours to a stirred suspension of 13.5 parts of p-nitrobenzoyl chloride and 24.2 parts of octadecyl-N-hydroxycarbamate in 125 parts of dioxan at 5° C. keeping the pH in the range pH3 to pH5. The temperature is raised to 25° C. and the mixture is stirred for a further 24 hours and then added to 1000 parts of water to give a waxy solid. The solid is dissolved in 250 parts of chloroform and the solution is washed with 200 parts of water, dried, filtered and is evaporated to constant weight at 40° C. under reduced pressure to give 31.5 parts of n-octadecyl-N-(p-nitrobenzoyloxy)carbamate as a waxy solid m.p. 84° C.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | dioxan | O1CCOCC1 | C4H8O2
reactant | p-nitrobenzoyl chloride | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | octadecyl-N-hydroxycarbamate | C(CCCCCCCCCCCCCCCCC)OC(NO)=O | C19H39NO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | n-octadecyl-N-(p-nitrobenzoyloxy)carbamate | C(CCCCCCCCCCCCCCCCC)OC(NOC(C1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C26H42N2O6
